US04423047
2-(Iodomethyl)sulfinyl-5-chloropyrimidine
90% m-chloroperbenzoic acid 8.4 mmol) in chloroform (8 ml) was added dropwise for 10 min with stirring to a solution of 2-(iodomethyl)thio-5-chloropyrimidine in chloroform (7 ml) at -5° C. The reaction mixture was coloured violet during the addition. The mixture was left at room temperature overnight. The chloroform solution was then extracted with 1 M K2CO3, washed with a little water, then dried (MgSO4) solution evaporated and the product subjected to thick-layer chromatography. 2-(Iodomethyl)sulfinyl-5-chloropyrimidine: yield 24%, m.p. 158° C., IR (KBr): 1050 and 1090 cm-1 (SO).

reactant | m-chloroperbenzoic acid | 8.4 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-(iodomethyl)thio-5-chloropyrimidine | ICSC1=NC=C(C=N1)Cl | C5H4ClIN2S
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(Iodomethyl)sulfinyl-5-chloropyrimidine | yield 24% | ICS(=O)C1=NC=C(C=N1)Cl | C5H4ClIN2OS
